US05019298
36.5 g (0.1 mol) of p-chlorobenzyl 4'-acetyl-4-biphenylcarboxylate, 150 ml of chloroform and 50 ml of ethanol were supplied into a four-necked flask equipped with a stirrer and a thermometer. Then 3.8 g (0.1 mol) of sodium borohydride was added at 15°-25° C. over a period of 10 minutes. The mixture was maintained at the same temperature for 2 hours. The reaction mixture was poured into ice-water and extracted twice with 200 ml of ethyl acetate. The organic layer was washed with water and concentrated under reduced pressure to obtain 36.5 g (99.5% yield) of p-chlorobenzyl 4'-(1-hydroxyethyl)-4-biphenylcarboxylate (III-27).

reactant | p-chlorobenzyl 4'-acetyl-4-biphenylcarboxylate | 0.1 mol, 36.5 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC1=CC=C(C=C1)Cl | C22H17ClO3
reactant | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium borohydride | 0.1 mol, 3.8 g | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | p-chlorobenzyl 4'-(1-hydroxyethyl)-4-biphenylcarboxylate | 36.5 g, 99.5% yield | OC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC1=CC=C(C=C1)Cl | C22H19ClO3
